US06046201
N-(12-Nitroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
To 30 ml of fuming nitric acid cooled to -30° C. was gradually added 7.9 g of N-(12-hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide over 30 minutes and the mixture was stirred at -30 to -20° C. for 40 minutes. The reaction solution was poured into ice, neutralized with sodium hydrogen carbonate and extracted with chloroform. The extract was dried over anhydrous sodium sulfate and distilled under reduced pressure. The residue thus obtained was chromatographed over a silica gel column and recystallized from methanol-water to afford the title compound as a crystal.

reactant | N-(12-hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 7.9 g | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H42N4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
product | N-(12-Nitroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | O([N+](=O)[O-])CCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H41N5O4
